US06271227B1
E. Methyl 3-Methoxy-4-[(1-pyrrolidinyl)methyl]benzoate
Methyl 4-bromomethyl-3-methoxybenzoate (1.0 g; 3.9 mmol) (Part D) was dissolved in THF (10 mL) and pyrrolidine (1.3 mL; 15.4 mmol) was added at room temperature. The mixture was stirred overnight at room temperature, then poured into 50 mL of water. Extraction was carried out with EtOAc (4×25 mL). The combined organics were washed with brine and dried by passage through sodium sulfate. The title compound was isolated (0.92 g; 96% yield) by flash chromatography on silica gel eluting with EtOAc(100-95%)/Et3N(0-5%).

reactant | Methyl 4-bromomethyl-3-methoxybenzoate | 3.9 mmol, 1.0 g | BrCC1=C(C=C(C(=O)OC)C=C1)OC | C10H11BrO3
reactant | pyrrolidine | 15.4 mmol, 1.3 mL | N1CCCC1 | C4H9N
reactant | water | 50 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Methyl 3-Methoxy-4-[(1-pyrrolidinyl)methyl]benzoate | 96% yield | COC=1C=C(C(=O)OC)C=CC1CN1CCCC1 | C14H19NO3
